US04758670
6.0 g of 2-tert.-butyl-2-[1-fluoro-1-(1H-1,2,4-triazol-1-yl)-ethyl]-oxirane, 3.1 g of 4-fluorophenol and 0.4 g of potassium p-fluorophenate in 20 ml of diethylene glycol dimethyl ether are heated at 140° C. for 6 hours. After cooling, the reaction mixture is taken up in ice water and extracted with ethyl acetate. The combined organic phases are washed successively with water, saturated sodium chloride solution, 2N sodium hydroxide solution, water and saturated sodium chloride solution, dried over sodium sulfate and evaporated. Chromatography over silica gel using a 4:1 hexane/ethyl acetate mixture gives 1.6 g of 1-(4-fluorophenoxy)-2-tert.-butyl-2-hydroxy-3-fluoro-3-methyl-3-(1H-1,2,4-triazol-1-yl)-propane as a mixture of diastereomers, melting point 90°-93° C.

reactant | 2-tert.-butyl-2-[1-fluoro-1-(1H-1,2,4-triazol-1-yl)-ethyl]-oxirane | 6.0 g | C(C)(C)(C)C1(OC1)C(C)(N1N=CN=C1)F | C10H16FN3O
reactant | 4-fluorophenol | 3.1 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium | 0.4 g | [K] | K
solvent | diethylene glycol dimethyl ether | 20 ml | COCCOCCOC | C6H14O3
product | 1-(4-fluorophenoxy)-2-tert.-butyl-2-hydroxy-3-fluoro-3-methyl-3-(1H-1,2,4-triazol-1-yl)-propane | 1.6 g | FC1=CC=C(OCC(C(N2N=CN=C2)(C)F)(O)C(C)(C)C)C=C1 | C16H21F2N3O2
